US05728907
Alternatively, the 0.1 moles of the synthesized tri-n-decylcarbinol was added to 0.2 liters of methylene chloride. The mixture was covered with a blanket of nitrogen and cooled to 0° C. 0.050 mole titanium tetrachloride was added to the mixture and the solution was stirred 2-3 hours at 0° C. 0.066 mole trimethylaluminum was added and the mixture was allowed to warm to room temperature. The reaction was quenched with water and washed with 0.1 liter of a 20% HCl solution. The organic layer was dried with magnesium sulfate and the methylene chloride removed to give a yield of 70% tri-n-decylmethylmethane.

reactant | tri-n-decylcarbinol | 0.1 moles | C(CCCCCCCCC)C(O)(CCCCCCCCCC)CCCCCCCCCC | C31H64O
reactant | trimethylaluminum | 0.066 mole | C[Al](C)C
catalyst | titanium tetrachloride | 0.050 mole | [Ti](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 0.2 liters | C(Cl)Cl | CH2Cl2
product | tri-n-decylmethylmethane | yield of 70% | C(CCCCCCCCC)C(C)(CCCCCCCCCC)CCCCCCCCCC | C32H66
